US07332501B2
g) 1′-[(6-Chloro-1H-indol-3-yl)carbonyl]spiro[isoindole-1,4′-piperidin]-3(2H)-one
To a solution of 0.060 g (0.31 mmol) 6-chloro-1H-indole-3-carboxylic acid in 3 ml dichloromethane were added 0.045 ml (0.38 mmol) 1-chloro-N,N,2-trimethyl-propenylamine at room temperature. After stirring for 1 h the reaction mixture was concentrated in vacuo. The residue was redissolved in 2 ml dry N,N-dimethylformamide. A solution of 0.062 g (0.31 mmol) spiro[isoindole-1,4′-piperidin]-3(2H)-one and 0.064 ml (0.46 mmol) triethylamine in 1 ml dry N,N-dimethylformamide was added at room temperature. After stirring for 2 h the reaction mixture was quenched with 1 M aqueous sodium hydroxide solution (30 ml) and extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with water (2×30 ml), 0.5 M aqueous hydrochloric acid solution (1×30 ml) and brine (1×30 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was triturated in warm diethyl ether, filtrated and dried in vacuo to give the title compound (0.031 g, 22%) as light brown solid with a purity of approx. 80% by LC-.MS.

reactant | 6-chloro-1H-indole-3-carboxylic acid | 0.31 mmol, 0.060 g | ClC1=CC=C2C(=CNC2=C1)C(=O)O | C9H6ClNO2
reactant | 1-chloro-N,N,2-trimethyl-propenylamine | 0.38 mmol, 0.045 ml | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | spiro[isoindole-1,4′-piperidin]-3(2H)-one | 0.31 mmol, 0.062 g | N1CCC2(CC1)NC(C1=CC=CC=C12)=O | C12H14N2O
reactant | triethylamine | 0.46 mmol, 0.064 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1′-[(6-Chloro-1H-indol-3-yl)carbonyl]spiro[isoindole-1,4′-piperidin]-3(2H)-one | 0.031 g, 22% | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC2(CC1)NC(C1=CC=CC=C12)=O | C21H18ClN3O2
